US03952046
0.976 G. of 4'-cyano-4-hydroxy-biphenyl are dissolved in 10 ml. of absolute pyridine and reacted with 0.988 g. of chloroformic acid n-hexyl ester as in Example 1. The 1.675 g. of yellowish, turbid, partially crystallized oil obtained according to the procedure described in Example 1 is dissolved in benzene and chromatographed on 80 g. of silica gel. Benzene elutes 1.530 g. of colorless crystals which are recrystallized from ether-hexane up to constant melting point and clearing point. The pure 4'-cyano-4-biphenylyl n-hexyl carbonate obtained melts at 87.1°-87.5° and is liquid crystalline (monotrope) upon cooling to 62.7°. UV (EtOH): ε270 = 26,300.

reactant | 4'-cyano-4-hydroxy-biphenyl | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid n-hexyl ester | C(CCCCC)OC(=O)Cl | C7H13ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4'-cyano-4-biphenylyl n-hexyl carbonate | C(OC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(OCCCCCC)=O | C20H21NO3
